US05643893
1-(4-Dihydroxyborylbutyl)thymine
Potassium carbonate (0.6 g, 4.4 mmol) was added to a solution of thymine (0.56 g, 4.4 mmol) in dimethylformamide (15 mL) and stirred for 30 minutes. To this reaction mixture, 4-bromobutyl boronic acid (0.4 g, 2.2 mmol) dissolved in dimethylformamide (5 mL) was added dropwise, and stirring was continued 2 days at room temperature. After the potassium carbonate was filtered, the dimethylformamide was evaporated under high vacuum. The residue was purified on a silica gel column eluting with a discontinuous gradient of chloroform/methanol (95:5, 85:15). The appropriate TLC-homogenous fractions were pooled and evaporated to give 0.22 g of pure product. Yield 44%; mp 130°-132° C.; 1H NMR (DMSO-d6) 0.55-0.68 (t, B CH2), 1.22-1.35 (m, B CH2 CH2), 1.42-1.60 (m, B CH2 CH2 CH2), 1.72-1.78 (s, CH3 C5 thymine), 3.52-3.63 (CH2 CH2 N), 7.40-7.43 (s, (HO)2 B), 7.48-7.51 (s, H C6 thymine), 11.12-11.18 (s, HN thymine). Elemental Analysis (C9H15BO4N2); Calcd. C, 47.82%; H, 6.69%; N, 12.40%; Found C, 47.71%; H, 6.72%; N, 12.35%.

reactant | Potassium carbonate | 4.4 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | thymine | 4.4 mmol, 0.56 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | 4-bromobutyl boronic acid | 2.2 mmol, 0.4 g | BrCCCCB(O)O | C4H10BBrO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(4-Dihydroxyborylbutyl)thymine | 0.22 g, Yield 44% | OB(CCCCN1C(=O)NC(=O)C(C)=C1)O | C9H15BN2O4
